US07939524B2
e) (1,1-Dioxo-1,4-dihydro-1λ6-thia-2,4,8-triaza-naphthalen-3-yl)-acetic Acid Ethyl Ester
3-Amino-pyridine-2-sulfonic acid amide (1.8 g, 10.4 mmol) was dissolved in 1,4-dioxane (45 mL). Chlorocarbonyl-acetic acid ethyl ester (1.57 mL, 12.48 mmol) was added. The mixture was stirred at 90° C. for 1.5 h. Upon cooling, the mixture was diluted with ethyl acetate (300 mL) and washed with half-saturated aqueous sodium bicarbonate solution (100 mL) followed by saturated aqueous brine solution (100 mL). The organic layer was dried over magnesium sulfate, filtered and concentrated in vacuo. The resulting oily residue was treated with toluene (36 mL) and triethylamine (9 mL). The mixture was stirred at 110° C. in a sealed tube for 1.5 h. The residue never completely dissolved. Upon cooling, the mixture was concentrated in vacuo to afford a thick oil. Trituration with a minimal amount of ethyl acetate (˜5 mL) solidified the product. The solids were collected by vacuum filtration and dried in vacuo for 16 h to afford the desired product, (1,1-dioxo-1,4-dihydro-1λ6-thia-2,4,8-triaza-naphthalen-3-yl)-acetic acid ethyl ester (0.3 g, 1.11 mmol, 11%), as a white solid. 1H NMR (400 MHz, DMSO-d6) δ: 1.21 (3H, t, J=7.0 Hz), 3.71 (2H, s), 4.16 (2H, quartet, J=7.1 Hz), 7.70-7.76 (2H, m), 8.62 (1H, dd, J1−4.0 Hz, J2=1.5 Hz), 12.29 (1H, bs). LC-MS (ESI) calcd for C10H11N3O4S 269.05, found 270.1 [M+H+].

reactant | 3-Amino-pyridine-2-sulfonic acid amide | 10.4 mmol, 1.8 g | NC=1C(=NC=CC1)S(=O)(=O)N | C5H7N3O2S
reactant | Chlorocarbonyl-acetic acid ethyl ester | 12.48 mmol, 1.57 mL | C(C)OC(CC(=O)Cl)=O | C5H7ClO3
solvent | 1,4-dioxane | 45 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | ˜5 mL | C(C)(=O)OCC | C4H8O2
product | (1,1-dioxo-1,4-dihydro-1λ6-thia-2,4,8-triaza-naphthalen-3-yl)-acetic acid ethyl ester | 1.11 mmol, 0.3 g, 11% | C(C)OC(CC1=NS(C2=NC=CC=C2N1)(=O)=O)=O | C10H11N3O4S
